Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / seafood
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year-old female with a history of ocular
toxoplasmosis and anxiety who presents with 3 weeks of
intermittent epigastric pain.  The pain is primarily in
epigastrium but radiates to left lateral flank and throughout
lower abdomen.  It is associated with bloating.  It is worse 
with
food.  She describes a sensation of food being stuck in her
epigastrium when she eats.  The pain is intermittent and 
resolved
after some period of time but about a week ago it recurred and
worsened.  At that time, she saw her PCP and had an ultrasound
which was within normal limits.  She was supposed to have a
varicose vein surgery and reported this epigastric pain to her
surgeon Dr. ___ a CT abdomen.  The CT abdomen had
several notable findings as below including pancreatic
inflammation and cyst.  She was therefore referred for MRCP 
which
showed similar findings as below..  She denies fevers, chills,
nausea, vomiting, diarrhea, jaundice, abdominal trauma, ethanol,
new medications (other than a single dose of ibuprofen (, herbal
medications, family history of pancreatic issues, sick contacts,
recent travel, abdominal surgeries.  She denies dysuria, frank
flank pain similar to her kidney stones, vaginal discharge.  She
is sexually active with her husband who has had a vasectomy.  
She
has baseline intermittent mild dyspareunia but this is not
changed.  She denies vaginal discharge.  She reports a 10 pound
weight loss over the last month which she thinks might be due to
decreased p.o. intake.  She did not does not find any particular
foods are worse for her pain.  On review of systems, she also
reports some easy bruising recently occurred.
She was referred after ___ to ___ ED.  there, her vital signs
were within normal limitsand she had only very mild pain.  She
was given 1 L of LR.  She ate some food in the emergency room. 
She was seen by GI who thought she most likely had autoimmune
pancreatitis but could not rule out malignancy or IgG disease. 
They recommended that she be followed up as an outpatient.  She
felt quite anxious with this plan and wanted to be admitted for
observation.
Currently, her pain is minimal and she is interested in eating. 
She is quite anxious about the possibility of a malignancy.

Denies confusion, rash, joint pain, dysuria, oral ulcers,
headache (other than 1 headache a week ago which is normal for
her) ROS: positive or negative as above, otherwise negative in 
12
systems

 
Past Medical History:
Ocular toxoplasmosis, treated at ___ several years ago,
presumably from her farm exposures in ___ was thought at that
time
Nephrolithiasis
Hypothyroidism, in remission
Anxiety
Varicose veins, has been operated on in the past
 
Social History:
___
Family History:
uncle with skin cancer on his nose, otherwise no cancers
Aunt with pacemaker at young age
Father and grandmother with diabetes
Paternal grandmother with chronic kidney disease, 
no pancreatic illnesses in family
No autoimmune processes and family
 
Physical Exam:
Vitals: ___, 97 / 66 BP, 68 HR, 18 RR, 100 RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  
GI: Abdomen soft, non-distended, mildly tender to palpation. 
Bowel sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 07:47    6.0 4.59 12.9 40.1 87 28.1 32.2 12.8 40.7 
214 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:47    ___ 1432 4.2 ___ 
ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 07:47    18 25 144   69   0.4   
OTHER ENZYMES & BILIRUBINS Lipase 
___ 12:36    68* 
Collection Date Tests Result 
___ 07:47    IgG Subclasses 1,2,3,4 PND 
___ 07:47    Strongyloides Antibody,IgG PND 
OTHER URINE CHEMISTRY UCG 
___ 21:43    NEG1 

CT A/P with contrast on ___:
IMPRESSION:  
  
1.  No acute intra-abdominal or intrapelvic process to explain 
the patient's 
symptoms. 
  
2.  Incidentally noted 2.1 cm rounded, irregular hypodensity in 
the pancreatic 
tail, incompletely characterized on the current CT but 
concerning for an 
underlying pancreatic lesion.  Focal pancreatitis is also in 
differential 
diagnosis, however, given the focal findings on CT, underlying 
lesion is of 
concern.  This should be worked up further by MRCP. 
  
3.  The gallbladder and appendix are unremarkable. 
  
RECOMMENDATION(S):  Further workup of the pancreatic lesion by 
___. 

 
Brief Hospital Course:
___ year old ___ lady with history of left ocular
toxoplasmosis treated at ___ several years ago, anxiety,
hypothyroidism (no longer requiring replacement therapy) who was
admitted on ___ for abdominal pain found to have possible
pancreatic inflammation and now presumed autoimmune 
pancreatitis. CT A/P showed "Incidentally noted 2.1 cm rounded, 
irregular hypodensity in the pancreatic 
tail, incompletely characterized on the current CT but 
concerning for an 
underlying pancreatic lesion."

#Presumed autoimmune pancreatitis, plan as per gastroenterology 
team:
"Given her young age, female gender, lack of malignant or
suggestive personal or family history, imaging findings and
history of thyroid disease, autoimmune pancreatitis seems most
likely to be the etiology of her symptoms and imaging findings. 

The work up this far does not rule out malignancy, however this
is felt to be less likely at this time and further work up to
rule this out would be more successful after empiric treatment
for autoimmune pancreatitis.  

- sent IgG4 (pending at discharge)
- sent strongyloides antibodies (pending at discharge, would 
treat if positive)
- prednisone 40mg daily, with plan to follow up with Dr. ___ in GI clinic next week. Plan for follow up with Dr. 
___ that. 
- current plan is to start tapering steroids in ___ weeks and
total duration to be less than ___ weeks, so will defer TB and
hepatitis testing at this time.
- will plan to reimage in ___ months when pancreas less inflamed 

- no role for EUS at this stage due to active inflammation, will
discuss MRCP vs EUS for repeat imaging and testing after empiric
treatment. Timing to be determined pending response to steroids"

Pain control initiated with acetaminophen prn. The patient 
tolerated regular diet at time of discharge without any nausea 
or vomiting or worsening pain.

The total time spent on discharge planning, counseling and 
coordination of care was 35 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Abdominal pain 
RX *acetaminophen 325 mg One to two tablet(s) by mouth every six 
(6) hours Disp #*30 Tablet Refills:*0 
2.  PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 4 tablet(s) by mouth once daily Disp #*56 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Autoimmune pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had abdominal pain. 

====================================
What happened at the hospital? 
====================================

-You were found to have inflammation in the pancreas by imaging 
scans taken of your abdomen. This could be due to a condition 
called autoimmune pancreatitis. You were started on a steroid 
medication to reduce the inflammation. 

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Take your medications every day as directed by your doctors. 

-Please attend all of your doctor appointments, this is 
especially important to help with your autoimmune pancreatitis 
condition. When the inflammation improves over the next few 
weeks, your GI doctor may have you undergo other imaging or 
procedure tests to make sure this diagnosis is correct.

-If you notice any new skin itching, rash, worsening or new 
abdominal pain, nausea, vomiting, diarrhea, new cough, wheezing, 
shortness of breath then you must notify your primary care 
physician or GI doctor's office immediately. This could 
represent a parasite infection that is worsening due to the 
steroid medication being started.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___